US08426445B2
a 50-mL, one-necked, round-bottom flask equipped with a magnetic stirrer was charged with 6-propyloxy-1-hexanol (1.0 g), PDC (4.7 g), dichloromethane (10 mL), Celite (1.0 g), and sodium acetate (100 mg). The reaction mixture was stirred at room temperature under nitrogen for 5 minutes. PDC (4.70 g) was added to the reaction mixture, and stirred overnight. The progress of reaction was monitored by TLC (Note 1). After completion of the reaction, the reaction mixture was directly loaded on the column (230-400 mesh silica gel). A solvent gradient of dichloromethane in ethyl acetate (10-20%) was used to elute the product from the column. All fractions containing the desired pure product were combined and concentrated in vacuo to give pure 6-propyloxy-1-hexanal (lot D-1029-050, 710 mg, 71%). Completion of the reaction was monitored by thin layer chromatography (TLC); (eluent: 60% ethyl acetate in hexanes).

reactant | 6-propyloxy-1-hexanol | 1.0 g | C(CC)OCCCCCCO | C9H20O2
reactant | PDC | 4.7 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
reactant | PDC | 4.70 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-propyloxy-1-hexanal | 710 mg, 71% | C(CC)OCCCCCC=O | C9H18O2
